US06121182
(1-3) 2-i-Propylindene
2-i-Propyl-1-indanol, non-purified, was dissolved in 300 ml of benzene to which was added 5 g of p-toluenesulfonic acid monohydrate and the resulting mixture was refluxed to allow dehydration reaction to occur. After the reaction was over, the reaction mixture was washed with saline, dried over magnesium sulfate, and concentrated in an evaporator. The reaction mixture was purified by column chromatography (silica gel, development solvent: n-hexane) to fractionate the target compound.

reactant | 2-i-Propyl-1-indanol | C(C)(C)C1C(C2=CC=CC=C2C1)O | C12H16O
reactant | p-toluenesulfonic acid monohydrate | 5 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | 2-i-Propylindene | C(C)(C)C=1CC2=CC=CC=C2C1 | C12H14
